.include TSMC_180nm.txt

.param LAMBDA=0.09u
.param width_N=20*LAMBDA
.param width_P=2*width_N
.global gnd vdd

.param t_setup_hl=(3-0.033)*1e-09
.param t_setup_lh=(5+0.022)*1e-09 
*tsthl - tphl increases a lot; tstlh- voltage drop at ouput after this

.param t_hold_hl=(3+0.032)*1e-09
.param t_hold_lh=(5-0.03)*1e-09 
*thhl- tphl increases a lot

Vdd vdd gnd 1.8
Vin_A A gnd pwl(0 0V 0.5ns 0V 0.5ns 1.8V 2ns 1.8V 2ns 0V 4ns 0V 4ns 1.8V)
Vin_C C gnd pwl(0 0V 0.5ns 0V 0.5ns 1.8V {t_setup_hl} 1.8V {t_setup_hl} 0V {t_setup_lh} 0V {t_setup_lh} 1.8V)
Vin_E E gnd pwl(0 0V 0.5ns 0V 0.5ns 1.8V 2ns 1.8V 2ns 0V {t_hold_hl} 0V {t_hold_hl} 1.8V {t_hold_lh} 1.8V {t_hold_lh} 0V)
Vin_clk_50 clk_50 gnd PULSE(1.8 0 0 50ps 50ps 1ns 2ns 0)
Vin_clk_0 clk_0 gnd PULSE(1.8 0 0 0ps 0ps 1ns 2ns 0)

.subckt dff in out clk vdd gnd S=1 
M1 temp1 in vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M2 temp2 clk temp1 vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M3 temp2 in gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}

M4 temp3 clk vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M5 temp3 temp2 temp4 gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M6 temp4 clk gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}

M7 out_bar temp3 vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M8 out_bar clk temp5 gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M9 temp5 temp3 gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}

M10 out out_bar vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M11 out out_bar gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
.ends dff

.subckt load in vdd gnd
M1 nc in vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
+AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} 
+AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M2 nc in gnd gnd CMOSN W={width_N} L={2*LAMBDA} 
+AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} 
+AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends load

x1 A B clk_50 vdd gnd dff
x2 B vdd gnd load

x3 C D clk_0 vdd gnd dff
x4 D vdd gnd load

x5 E F clk_0 vdd gnd dff
x6 F vdd gnd load

.tran 0.1ps 6ns

.measure tran tpcq_lh
+TRIG v(clk_50) VAL=0.9 RISE=3 
+TARG v(B) VAL=0.9 RISE=2
.measure tran tpcq_hl
+TRIG v(clk_50) VAL=0.9 RISE=2 
+TARG v(B) VAL=0.9 FALL=1
.measure tran tpcq param = (tpcq_hl + tpcq_lh)/2

.control
run
set curplottitle="Hrishikesh-2024122006"
*plot v(A) 2+v(B) 4+v(clk_50)
*plot v(C) 2+v(D) 4+v(clk_0)
*plot v(E) 2+v(F) 4+v(clk_0)
set hcopypscolor = 1

.endc

*thold - 32ps
*tsetup - 33ps